Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization
 
History of Present Illness:
Mr. ___ is a ___ with h/o diabetes, HTN, HLD, DM who 
presented to OSH for chest pain and was transferred for trop 
elevation .08.

Mr. ___ in normal state of health until 1 week prior to 
presentation when he started experiencing recurrent episodes of 
chest pain.  Pain is typically on the left side of his chest and 
sometimes radiates to his neck, left arm and back. Described as 
a tightness or squeezing. Pain sometimes goes away after ___
minutes but most recently has been persistent for ___ hours. He 
endorses significant fatigue over the past week as well, night 
sweats for the past 2 days, prominent cough of 7 days' duration 
and loose stools for the past ___ days.  He endorses one episode 
of nausea/emesis on ___. Denies diaphoresis.  He has not been 
very active over the past week though notes no relation to
exertion. 2 weeks ago he was able to play hockey as he often 
does with no issue. Also with some DOE.  Reports if was cutting 
the lawn would have to take breaks. 

He presented to ___, where he was found to have elevated 
trop at 0.08. Otherwise, labs were unremarkable and chest X-ray 
showed no abnormality. He had CTA chest that showed no PE and no 
dissection. He was treated with aspirin (325) and was 
transferred for consideration for cath.

In the ED here, he had stable vital signs. His troponin here was 
negative. EKG showed normal sinus rhythm at 66bpm, normal axis 
and intervals, early R wave progression, without any ST 
elevations/depressions, T wave inversions, or Q waves. He was 
given sublingual nitro with no resolution of symptoms. He was
also given 12.5mg metoprolol tartrate, atorvastatin 80mg, and 
started on a heparin gtt.
 
On arrival to the cardiology ward, patient corroborates the 
above history.  He currently is experiencing ___ chest pain and 
notes no relief of his last dose of sublingual nitrogen.  He is 
no longer having sweats or shortness of breath but it does 
endorse increased frequency of stool. 
 
 
Past Medical History:
1. CARDIAC RISK FACTORS  
- Diabetes  
- Hypertension  
- Dyslipidemia  
2. CARDIAC HISTORY  
- CAD - mid 50% LAD - no intervention 
3. OTHER PAST MEDICAL HISTORY
- Appendectomy
- Diverticulitis
 
 
Social History:
___
Family History:
FatherAliveHad an ' irrgeular heart rate and had ICD or
pacemaker placed'
MotherAliveNo Significant Medical History
SisterAliveNo Significant Medical History
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
=====================  
VS: Temp 98.0 BP 139 / 87 HR 68 RR 17SaO2 96%Ra
GENERAL: NAD, well appearin man in NAD. Ruddy complexion
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs. JVD < 10 cm at 90 
degrees
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly
EXTREMITIES:trace edema b/l, at baseline per patient
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face 
symmetric
DERM: warm and well perfused, no excoriations or lesions, no 
rashes

Discharge Exam: 
GENERAL: NAD, well appearing man in NAD. Ruddy complexion
HEENT: AT/NC, anicteric sclera
NECK: supple, no LAD, no elevated JVD
CV: RRR, S1/S2, no murmurs, gallops, or rubs. 
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles
GI: abdomen soft, nondistended, nontender, no hepatosplenomegaly
EXTREMITIES: no edema b/l, right arm with dressing over cath 
site without strike through, bruit, and with perfusion of distal 
extremities, no evidence hematoma 
Neuro: sensation to light touch in right hand, strength ___ in 
B/l hands, movement of bilateral fingers with intention. 
 
Pertinent Results:
ADMISSION
___ 11:20PM   WBC-5.6 RBC-4.45* HGB-14.8 HCT-41.5 MCV-93 
MCH-33.3* MCHC-35.7 RDW-12.1 RDWSD-41.4
___ 11:20PM   NEUTS-41.7 ___ MONOS-11.2 EOS-1.8 
BASOS-1.1* AbsNeut-2.35 AbsLymp-2.49 AbsMono-0.63 AbsEos-0.10 
AbsBaso-0.06
___ 11:20PM   ___ PTT-27.1 ___
___ 11:20PM   GLUCOSE-98 UREA N-12 CREAT-1.0 SODIUM-139 
POTASSIUM-4.9 CHLORIDE-103 TOTAL CO2-21* ANION GAP-15
___ 11:20PM   ALT(SGPT)-42* AST(SGOT)-34 CK(CPK)-72 ALK 
PHOS-63 TOT BILI-0.5
___ 11:20PM   LIPASE-44
___ 11:20PM   cTropnT-<0.01
___ 11:20PM   CK-MB-<1
___ 11:20PM   ALBUMIN-3.9
___ 10:45PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:45PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:45PM URINE  RBC-1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
 
PERTINENT STUDIES:
___ CATH
Coronary Anatomy
Right dominant
LM: No disease.
LAD: Focal 50% eccentric stenosis in mid vessel.
LCx: No significant disease.
RCA: No significant disease.
 
Impressions:
Intermediate mid LAD disease.
 
Recommendations
Med Rx. If patient has persistent angina or evidence of 
ischemia, could do mid LAD PCI in future.

Discharge Labs: 

___ 06:33AM BLOOD WBC-6.6 RBC-4.86 Hgb-15.7 Hct-45.6 MCV-94 
MCH-32.3* MCHC-34.4 RDW-12.1 RDWSD-42.3 Plt ___
___ 06:33AM BLOOD Plt ___
___ 06:33AM BLOOD Glucose-123* UreaN-15 Creat-1.1 Na-141 
K-4.8 Cl-102 HCO3-28 AnGap-11
___ 06:33AM BLOOD Calcium-9.5 Phos-3.3 Mg-2.___ year old man with PMHx DM2, HTN, HLD, who presented with 
chest pain at rest and found to have NSTEMI with moderate 
coronary artery disease on cardiac catheterization, not thought 
to be contributing to chest pain and no intervention was done. 
Patient was started on aspirin, high dose atorvastatin and PRN 
sublingual nitroglycerin and discharged with Cardiology follow 
up.

Active Issues
# NSTEMI:
Presented with chest pain at rest concern for unstable angina. 
Etiology unclear as underwent coronary angiogram and had only 
moderate 50% mid LAD disease not thought to be responsible for 
his chest pain. Patient started on ___, high dose statin and 
PRN SL NTG and discharged with Cardiology follow up.
 
Chronic Issues
# HTN: continued home felodipine
# HLD: increased atorvastatin
# Depression: continued home citalopram
# Anxiety: continued home lorazepam
 
Transitional Issues:
[ ] new diagnosis of CAD: started on ASA 81, high dose 
atorvastatin, PRN SL NTG
[ ] please obtain TTE as outpatient

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. MetFORMIN XR (Glucophage XR) 500 mg PO DAILY 
2. Citalopram 20 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Zolpidem Tartrate 10 mg PO QHS:PRN Insomnia 
5. LORazepam 1 mg PO BID:PRN Anxiety 
6. Felodipine 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.4 mg 1 tablet(s) sublingually Q5minutes Disp 
#*25 Tablet Refills:*0 
3.  Atorvastatin 80 mg PO QPM  
4.  Citalopram 20 mg PO DAILY  
5.  Felodipine 10 mg PO DAILY  
6.  LORazepam 1 mg PO BID:PRN Anxiety  
7.  MetFORMIN XR (Glucophage XR) 500 mg PO DAILY  
8.  Zolpidem Tartrate 10 mg PO QHS:PRN Insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Coronary artery disease
# Non-ST elevation myocardial infarction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking care of you at the ___ 
___!  
 
WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had chest pain
 
WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You were admitted to the hospital because you had chest pain. 
You were found to have had a heart attack. Your heart arteries 
were examined (cardiac catheterization) which showed a blockage 
of one of the arteries. This blockage was not enough to limit 
the flow in your artery and was not thought to be the reason for 
your pain.
- We increased your home medications to take the stress off the 
heart
  
WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please take your medications as prescribed
- Please follow up with your primary care doctor
- Please return to hospital if you have chest pain that does not 
go away or gets worse when you are being active.

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 
Your ___ Healthcare Team  
 

 
Followup Instructions:
___